US06465481B1
(iii) 3-Benzyl-3,7-diazabicyclo[3.3.1]nonane
A solution of 3,7-dibenzyl-3,7-diazabicyclo[3.3.1]nonane (from step (ii) above; 97 g; 6.4 mmol) in aqueous ethanol (95%) was hydrogenated over 5% Pd/C at 1 atm. until tic indicated that the reaction was complete. The catalyst was removed by filtration through a pad of Celite®, and the filtrate concentrated under reduced pressure to give the sub-title compound in quantitative yield.

reactant | 3,7-dibenzyl-3,7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2)CC2=CC=CC=C2 | C21H26N2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-Benzyl-3,7-diazabicyclo[3.3.1]nonane | quantitative yield | C(C1=CC=CC=C1)N1CC2CNCC(C1)C2 | C14H20N2
